US04427589
1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropene
A mixture of 2.0 g of (5 mmole) of 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropyne and 0.1 g of prehydrogenated 10% palladium on barium sulfate in 50 ml of tetrahydrofuran was hydrogenated at room temperature and atmospheric pressure until 85 ml of hydrogen was absorbed. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to dryness. The residue was crystallized from ether to give a white solid, mp 70°-72° C. Recrystallization from ether gave colorless prisms, mp 70°-72° C.

reactant | 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropyne | 5 mmole, 2.0 g | ClC1=CC(=C(C=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H14ClNO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on barium sulfate | [Pd] | Pd
product | 1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropene | ClC1=CC(=C(C=C1)C=CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H16ClNO3
